US06660744B1
A mixture of 5-ethoxy-3-methyl-1-[4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl]-1H-pyrazole (0.062 g, 0.00019 mol), trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.070 g, 0.000159 mol), tetrakis-(triphenylphosphine)palladium (0.011 g, 0.0000095 mol) and sodium carbonate monohydrate (0.049 g, 0.000398 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-[4-(5-ethoxy-1H-1-pyrazolyl)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate (0.037 g, 0.000064 mol) as a white solid.

reactant | 5-ethoxy-3-methyl-1-[4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl]-1H-pyrazole | 0.00019 mol, 0.062 g | C(C)OC1=CC(=NN1C1=CC=C(C=C1)C1OC(C(O1)(C)C)(C)C)C | C19H26N2O3
reactant | trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000159 mol, 0.070 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.000398 mol, 0.049 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | trans-3-[4-(5-ethoxy-1H-1-pyrazolyl)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate | 0.000064 mol, 0.037 g | C(C)(=O)O.C(C)OC1=CC=NN1C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C27H35N9O.C2H4O2/c1-3-37-23-12-13-31-35(23)21-6-4-19(5-7-21)25-24-26(28)29-18-30-27(24)36(32-25)22-10-8-20(9-11-22)34-16-14-33(2)15-17-34;1-2(3)4/h4-7,12-13,18,20,22H,3,8-11,14-17H2,1-2H3,(H2,28,29,30);1H3,(H,3,4)/t20-,22-;
